US09112157B2
A solution of 4-(3-(4-(diphenylamino)phenyl)benzo[b]thiophen-2-yl)benzaldehyde (1.4 g, 0.0029 mol) was prepared in anhydrous THF (50 mL) in a clean, dry, and purged round bottom flask. To a dry round bottom flask equipped with an addition funnel methyltriphenylphosphonium bromide (1.82 g, 0.0051 mol) was added. Tetrahydrofuran (70 mL) was added to this reaction flask. Potassium tert-butoxide (0.59 g, 0.0052 mol) was then added to the reaction flask, and the flask was subsequently covered with aluminum foil. The solution of 4-(3-(4-(diphenylamino)phenyl)benzo[b]thiophen-2-yl)benzaldehyde/THF was then transferred to the addition funnel via cannula. This solution was then added to the reaction flask from the addition funnel dropwise. The reaction solution was allowed to stir for approximately 1 hour and completion was then confirmed via thin-layer chromatography. The reaction solution was filtered through a celite/silica gel (treated w/Et3N) plug. Solvent was removed by rotary evaporation. The resulting crude mixture was purified by chromatography on silica gel using ethyl acetate/hexane as an eluent. Precipitation from a minimum amount of ethyl acetate into methanol provided 1H NMR pure product. Product obtained: 1.06 g

reactant | Potassium tert-butoxide | 0.0052 mol, 0.59 g | CC(C)([O-])C.[K+]
reactant | aluminum | [Al] | Al
reactant | 4-(3-(4-(diphenylamino)phenyl)benzo[b]thiophen-2-yl)benzaldehyde THF | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C=1C2=C(SC1C1=CC=C(C=O)C=C1)C=CC=C2)C2=CC=CC=C2.C1CCOC1
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | methyltriphenylphosphonium bromide | 0.0051 mol, 1.82 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | Tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | 4-(3-(4-(diphenylamino)phenyl)benzo[b]thiophen-2-yl)benzaldehyde | 0.0029 mol, 1.4 g | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C=1C2=C(SC1C1=CC=C(C=O)C=C1)C=CC=C2)C2=CC=CC=C2 | C33H23NOS
